US07652125B2
Next, in a 300 mL recovery flask, the obtained 81.3 g of 2,2′-dihydroxy-3,3′-dinitro-5,5′-bis[3-(1-adamantyl)-(1-adamantyl)]-biphenyl (0.10 mol), 0.318 g of 10% palladium-activated carbon (0.30 mmol), 273 mL of N,N-dimethylformamide and a stirrer were charged and agitated at 25° C. for 24 hours under a hydrogen atmosphere. A reaction solution was filtered and then added to 1 L of ion-exchange water. Solid precipitate was collected by filtration, then agitated in 1 L of ion-exchange water for one hour and dried under reduced pressure, thus obtaining 69.3 g of 2,2′-dihydroxy-3,3′-diamino-5,5′-bis[3-(1-adamantyl)-(1-adamantyl)]-biphenyl (0.092 mol; the yield was 92.0%).

reactant | 2,2′-dihydroxy-3,3′-dinitro-5,5′-bis[3-(1-adamantyl)-(1-adamantyl)]-biphenyl | 0.10 mol, 81.3 g | OC1=C(C=C(C=C1[N+](=O)[O-])C12CC3(CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3)C3=C(C(=CC(=C3)C31CC2(CC(CC(C3)C2)C1)C12CC3CC(CC(C1)C3)C2)[N+](=O)[O-])O | C52H64N2O6
catalyst | palladium-activated carbon | 0.30 mmol, 0.318 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 273 mL | CN(C=O)C | C3H7NO
product | 2,2′-dihydroxy-3,3′-diamino-5,5′-bis[3-(1-adamantyl)-(1-adamantyl)]-biphenyl | 69.3 g, yield was 92.0% | OC1=C(C=C(C=C1N)C12CC3(CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3)C3=C(C(=CC(=C3)C31CC2(CC(CC(C3)C2)C1)C12CC3CC(CC(C1)C3)C2)N)O | C52H68N2O2
